US07790763B2
b) (2-Isopropoxy-5-methanesulfonyl-phenyl)-[3-(4-trifluoromethyl-phenoxy)-azetidin-1-yl]-methanone
A mixture of 0.32 mmol (3-hydroxy-azetidin-1-yl)-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone, 0.32 mmol 4-fluoro-benzotrifluoride and 0.96 mmol cesium carbonate in 10 ml acetonitrile was refluxed overnight. The reaction mixture was concentrated to yield the crude compound, purified by chromatography (methanol/dichloromethane). MS (m/e): 458.4 (M+H+, 100%).

reactant | (3-hydroxy-azetidin-1-yl)-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone | 0.32 mmol | OC1CN(C1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C | C14H19NO5S
reactant | 4-fluoro-benzotrifluoride | 0.32 mmol | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | cesium carbonate | 0.96 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2-Isopropoxy-5-methanesulfonyl-phenyl)-[3-(4-trifluoromethyl-phenoxy)-azetidin-1-yl]-methanone | C(C)(C)OC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C21H22F3NO5S
